US08202865B2
Step 1: methyl 2′-(methoxymethyl)-2-methylbiphenyl-4-carboxylate
Methyl 4-bromo-3-methylbenzoate (Aldrich 532878, 2 g; 8.73 mmol; 1 eq.), (2-methoxymethylphenyl)boronic acid (1.59 g; 9.60 mmol; 1.10 eq.), K2CO3 (6.03 g; 43.65 mmol; 5 eq.), tetrakis(triphenylphosphine)palladium (0) (1.01 g; 0.87 mmol; 0.10 eq.) were taken up in Toluene (10 mL) and water (10 mL) under N2 atmosphere. The reaction mixture was purged with vacuum, then degassed with N2 and then for 2 hours. The reaction mixture was cooled to RT, filtered over a pad of celite and washed with EtOAc (500 mL). The filtrate was concentrated to afford a yellow oil which was taken in EtOAc (100 mL). The organic layer was washed with a saturated aqueous solution of NaHCO3 solution (30 mL), water (30 mL) and brine (30 mL), dried over MgSO4 and concentrated affording the title compound as a brown oil used without further purification (3 g, quantitative). HPLC (Method A) Rt 5.20 min (Purity: 64.5%).

reactant | Methyl 4-bromo-3-methylbenzoate | 8.73 mmol, 2 g, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | (2-methoxymethylphenyl)boronic acid | 9.60 mmol, 1.59 g, 1.10 eq. | COCC1=C(C=CC=C1)B(O)O | C8H11BO3
reactant | K2CO3 | 43.65 mmol, 6.03 g, 5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.87 mmol, 1.01 g, 0.10 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2′-(methoxymethyl)-2-methylbiphenyl-4-carboxylate | COCC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)C | C17H18O3
